US05182263
1,1-dimethylethyl 3-[4-(2-benzyloxy-2-oxoethyl)phenyl]propanoate (3.0 g, 8.5 mmol) was stirred in formic acid (10 mL) for 8 hours. Removal of the solvent in vacuo provided a colorless oil that was shaken vigorously with a mixture of ethyl acetate and hexanes (1:3, 20 mL) until it solidified. The mixture was cooled in ice water and the product, collected by suction filtration to give 3-[4-(2-benzyloxy-2-oxoethyl)phenyl]propanoic acid, as a white solid (2.2 g, 7.4 mmol) in 87% yield, mp. 62°-64.5° C.

reactant | 1,1-dimethylethyl 3-[4-(2-benzyloxy-2-oxoethyl)phenyl]propanoate | 8.5 mmol, 3.0 g | C(C1=CC=CC=C1)OC(CC1=CC=C(C=C1)CCC(=O)OC(C)(C)C)=O | C22H26O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 10 mL | C(=O)O | CH2O2
product | 3-[4-(2-benzyloxy-2-oxoethyl)phenyl]propanoic acid | 87% yield | C(C1=CC=CC=C1)OC(CC1=CC=C(C=C1)CCC(=O)O)=O | C18H18O4
